** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/cells/bi_24t/gf180mcu_ocd_io__bi_24t.sch
.subckt gf180mcu_ocd_io__bi_24t A CS DVDD DVSS IE OE PAD PD PU SL VDD VSS Y
*.PININFO A:I VDD:B Y:O VSS:B DVDD:B DVSS:B PU:I PD:I SL:I OE:I CS:I IE:I PAD:B
XR206 PAD net1 DVDD ppolyf_u r_width=2.5e-6 r_length=2.8e-6 m=1
XR207 PAD net1 DVDD ppolyf_u r_width=2.5e-6 r_length=2.8e-6 m=1
XR209 PAD net1 DVDD ppolyf_u r_width=2.5e-6 r_length=2.8e-6 m=1
XR1 PAD net1 DVDD ppolyf_u r_width=2.5e-6 r_length=2.8e-6 m=1
x28 OE A SL PAD DVDD DVSS VDD VSS net2 net3 io_out_24
x29 net1 IE CS Y DVDD DVSS VDD VSS io_in
x30 DVDD DVSS PU PD net1 VDD VSS io_pupd
XC1 DVDD DVSS cap_nmos_06v0 c_width=3e-6 c_length=3e-6 m=4
XC2 DVDD DVSS cap_nmos_06v0 c_width=5e-6 c_length=1.5e-6 m=8
D3 DVSS net1 diode_nd2ps_06v0 area='20u * 1u ' pj='2*20u + 2*1u ' m=2
D2 net1 DVDD diode_pd2nw_06v0 area='20u * 1u ' pj='2*20u + 2*1u ' m=2
XR2 net2 VDD VDD ppolyf_u r_width=0.8e-6 r_length=1.6e-6 m=1
XR3 net3 VDD VDD ppolyf_u r_width=0.8e-6 r_length=1.6e-6 m=1
D1 VSS OE diode_pd2nw_03v3 area='0.48u * 0.48u ' pj='2*0.48u + 2*0.48u ' m=3
D7 A VDD diode_pd2nw_03v3 area='1u * 1u ' pj='2*1u + 2*1u ' m=1
D4 CS VDD diode_pd2nw_03v3 area='1u * 1u ' pj='2*1u + 2*1u ' m=1
D5 IE VDD diode_pd2nw_03v3 area='1u * 1u ' pj='2*1u + 2*1u ' m=1
D6 PD VDD diode_pd2nw_03v3 area='1u * 1u ' pj='2*1u + 2*1u ' m=1
D8 PU VDD diode_pd2nw_03v3 area='1u * 1u ' pj='2*1u + 2*1u ' m=1
D9 SL VDD diode_pd2nw_03v3 area='1u * 1u ' pj='2*1u + 2*1u ' m=1
D10 VSS VDD diode_pd2nw_03v3 area='0.48u * 0.48u ' pj='2*0.48u + 2*0.48u ' m=1
D11 VSS net2 diode_pd2nw_03v3 area='0.48u * 0.48u ' pj='2*0.48u + 2*0.48u ' m=1
D12 VSS net3 diode_pd2nw_03v3 area='0.48u * 0.48u ' pj='2*0.48u + 2*0.48u ' m=1
.ends

* expanding   symbol:  io_out_24.sym # of pins=10
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_out_24.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_out_24.sch
.subckt io_out_24 OE A SL PAD DVDD DVSS VDD VSS PDRV0 PDRV1
*.PININFO OE:I VDD:B PAD:O A:I SL:I PDRV0:I PDRV1:I VSS:B DVDD:B DVSS:B
x1 A net10 OE VDD VSS io_nand2_1
x2 net11 net12 DVDD DVSS io_inv_2
x3 net12 net2 DVDD DVSS io_inv_2
x5 SL net13 VDD VSS io_inv_1
x6 net14 net1 DVDD DVSS io_inv_2
x7 PDRV0 net15 OE VDD VSS io_nand2_1
x8 net16 net3 DVDD DVSS io_inv_2
x10 PDRV1 net17 OE VDD VSS io_nand2_1
x11 net18 net9 DVDD DVSS io_inv_2
x13 VDD net19 OE VDD VSS io_nand2_1
x14 net20 net6 DVDD DVSS io_inv_2
x9 net1 net8 DVDD DVSS io_inv_2
x17 net3 net4 DVDD DVSS io_inv_2
x18 net9 net5 DVDD DVSS io_inv_2
x19 net6 net7 DVDD DVSS io_inv_2
x20 DVDD VDD net19 net20 VSS DVSS io_lvlshft
x21 DVDD VDD net17 net18 VSS DVSS io_lvlshft
x22 DVDD VDD net15 net16 VSS DVSS io_lvlshft
x23 DVDD VDD net13 net14 VSS DVSS io_lvlshft
x24 DVDD VDD net10 net11 VSS DVSS io_lvlshft
x4 net1 net2 net3 PAD net8 DVDD DVSS net4 drive_select_24
x12 net1 net2 net9 PAD net8 DVDD DVSS net5 drive_select_24
x15 net1 net2 net9 PAD net8 DVDD DVSS net5 drive_select_24
x16 net1 net2 net6 PAD net8 DVDD DVSS net7 drive_select_24
.ends


* expanding   symbol:  io_in.sym # of pins=8
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_in.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_in.sch
.subckt io_in PAD IE CS Y DVDD DVSS VDD VSS
*.PININFO IE:I Y:O CS:I PAD:I VDD:B VSS:B DVDD:B DVSS:B
x4 IE net9 VDD VSS io_inv_1
x5 net10 net8 DVDD DVSS io_inv_2
x6 net1 net2 DVDD DVSS io_inv_3
XI157 net4 net1 DVDD DVDD pfet_06v0 L=0.70u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI171 net6 net2 DVSS DVSS nfet_06v0 L=0.70u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
x7 net4 net5 net2 net1 DVDD DVSS io_xfer_1i
x8 net5 net6 net2 net1 DVDD DVSS io_xfer_1i
x9 net5 net11 DVDD DVSS io_inv_1i
x10 net11 net12 VDD VSS DVDD DVSS io_inv_2i
x11 net12 Y VDD VSS io_inv_3i
x12 net8 net13 DVDD DVSS io_inv_2
x13 CS net14 VDD VSS io_inv_1
x14 net15 net1 DVDD DVSS io_inv_2
XI160 net5 net8 DVDD DVDD pfet_06v0 L=0.70u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI165 net7 PAD net16 DVSS nfet_06v0 L=0.70u W=10.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI163 net5 PAD net3 DVDD pfet_06v0 L=0.70u W=4.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI158 net3 PAD DVDD DVDD pfet_06v0 L=0.70u W=3.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI159 DVSS net4 net3 DVDD pfet_06v0 L=0.70u W=3.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI164 net16 net8 DVSS DVSS nfet_06v0 L=0.70u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI170 DVDD net6 net7 DVSS nfet_06v0 L=0.70u W=1.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
x15 net1 net17 DVDD DVSS io_inv_2
* noconn #net17
* noconn #net13
XI1 net5 PAD net7 DVSS nfet_06v0 L=0.70u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
x1 DVDD VDD net14 net15 VSS DVSS io_lvlshft
x2 DVDD VDD net9 net10 VSS DVSS io_lvlshft
.ends


* expanding   symbol:  io_pupd.sym # of pins=7
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_pupd.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_pupd.sch
.subckt io_pupd DVDD DVSS PU PD PAD VDD VSS
*.PININFO PU:I PD:I PAD:O VDD:B VSS:B DVDD:B DVSS:B
x16 PU net2 PD net6 VDD VSS io_xfer_1
x17 net1 net2 net6 PD VDD VSS io_xfer_1
x18 PU net1 VDD VSS io_inv_1
x19 PD net6 VDD VSS io_inv_1
x20 net2 net7 PU VDD VSS io_nand2_1
x21 net2 net8 PD VDD VSS io_nand2_1
x22 net7 net9 VDD VSS io_inv_1
x23 net10 net5 DVDD DVSS io_inv_2
x24 net5 net11 DVDD DVSS io_inv_2
x25 net8 net12 VDD VSS io_inv_1
x26 net13 net14 DVDD DVSS io_inv_2
x27 net14 net3 DVDD DVSS io_inv_2
XI202 net4 net3 DVSS DVSS nfet_06v0 L=0.70u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI203 net4 net5 DVDD DVDD pfet_06v0 L=0.70u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR201 net15 net4 DVDD ppolyf_u r_width=0.8e-6 r_length=35.7e-6 m=1
XR200 net16 net15 DVDD ppolyf_u r_width=0.8e-6 r_length=35.7e-6 m=1
XR199 net17 net16 DVDD ppolyf_u r_width=0.8e-6 r_length=35.7e-6 m=1
XR198 net18 net17 DVDD ppolyf_u r_width=0.8e-6 r_length=35.7e-6 m=1
XR197 net19 net18 DVDD ppolyf_u r_width=0.8e-6 r_length=35.7e-6 m=1
XR196 net20 net19 DVDD ppolyf_u r_width=0.8e-6 r_length=35.7e-6 m=1
XR195 net21 net20 DVDD ppolyf_u r_width=0.8e-6 r_length=35.7e-6 m=1
XR194 PAD net21 DVDD ppolyf_u r_width=0.8e-6 r_length=23e-6 m=1
* noconn #net11
x1 DVDD VDD net12 net13 VSS DVSS io_lvlshft
x2 DVDD VDD net9 net10 VSS DVSS io_lvlshft
.ends


* expanding   symbol:  io_nand2_1.sym # of pins=5
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_nand2_1.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_nand2_1.sch
.subckt io_nand2_1 IN0 OUT IN1 VDD VSS
*.PININFO OUT:O IN0:I IN1:I VDD:B VSS:B
XM5 net1 IN1 VSS VSS nfet_03v3 L=0.28u W=0.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 OUT IN1 VDD VDD pfet_03v3 L=0.28u W=1.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 OUT IN0 net1 VSS nfet_03v3 L=0.28u W=0.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 OUT IN0 VDD VDD pfet_03v3 L=0.28u W=1.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_inv_2.sym # of pins=4
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_2.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_2.sch
.subckt io_inv_2 IN OUT VDD VSS
*.PININFO OUT:O IN:I VDD:B VSS:B
XM1 OUT IN VDD VDD pfet_06v0 L=0.70u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 OUT IN VSS VSS nfet_06v0 L=0.70u W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_inv_1.sym # of pins=4
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_1.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_1.sch
.subckt io_inv_1 IN OUT VDD VSS
*.PININFO OUT:O IN:I VDD:B VSS:B
XM2 OUT IN VSS VSS nfet_03v3 L=0.28u W=0.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 OUT IN VDD VDD pfet_03v3 L=0.28u W=1.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_lvlshft.sym # of pins=6
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_lvlshft.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_lvlshft.sch
.subckt io_lvlshft DVDD VDD IN OUT VSS DVSS
*.PININFO OUT:O IN:I VDD:B VSS:B DVSS:B DVDD:B
XM2 INB IN VSS VSS nfet_03v3 L=0.28u W=0.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 INB IN VDD VDD pfet_03v3 L=0.28u W=1.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 net1 IN DVSS DVSS nfet_06v0 L=0.7u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 OUT net1 DVDD DVDD pfet_06v0 L=0.7u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 OUT INB DVSS DVSS nfet_06v0 L=0.7u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 net1 OUT DVDD DVDD pfet_06v0 L=0.7u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  drive_select_24.sym # of pins=8
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/drive_select_24.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/drive_select_24.sch
.subckt drive_select_24 FAST_N IN ENABLE OUT FAST VDD VSS ENABLE_N
*.PININFO IN:I ENABLE:I FAST:I FAST_N:I OUT:O VDD:B VSS:B ENABLE_N:I
XI121 net1 ENABLE VDD VDD pfet_06v0 L=0.70u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI125 net1 IN VDD VDD pfet_06v0 L=0.70u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI126 net3 ENABLE_N net1 VDD pfet_06v0 L=0.70u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI119 net1 ENABLE net3 VSS nfet_06v0 L=0.70u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI117 net3 IN VSS VSS nfet_06v0 L=0.70u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI118 net3 ENABLE_N VSS VSS nfet_06v0 L=0.70u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
x2 net1 net5 VDD VSS io_inv_4
XI120 net5 FAST_N net2 VDD pfet_06v0 L=0.7u W=24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Xx20 OUT net2 VSS VSS nfet_06v0_dss L=0.8u W=37u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 d_sab=3.78u s_sab=0.28u m=1
XI114 net2 net1 VSS VSS nfet_06v0 L=0.70u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XI124 net2 VSS net5 VDD pfet_06v0 L=0.7u W=1.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Xx19 OUT net5 VSS VSS nfet_06v0_dss L=0.8u W=37u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 d_sab=3.78u s_sab=0.28u m=1
x3 net3 net4 VDD VSS io_inv_4
XI113 net6 VDD net4 VSS nfet_06v0 L=0.7u W=01.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM18 OUT net6 VDD VDD pfet_06v0_dss L=0.7u W=120u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 d_sab=2.78u s_sab=0.28u m=1
XI127 net6 net3 VDD VDD pfet_06v0 L=0.7u W=024u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM21 OUT net4 VDD VDD pfet_06v0_dss L=0.7u W=60u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 d_sab=2.78u s_sab=0.28u m=1
XI112 net4 FAST net6 VSS nfet_06v0 L=0.7u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_inv_3.sym # of pins=4
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_3.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_3.sch
.subckt io_inv_3 IN OUT VDD VSS
*.PININFO OUT:O IN:I VDD:B VSS:B
XM1 OUT IN VDD VDD pfet_06v0 L=0.70u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 OUT IN VSS VSS nfet_06v0 L=0.70u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_xfer_1i.sym # of pins=6
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_xfer_1i.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_xfer_1i.sch
.subckt io_xfer_1i IN OUT P N VDD VSS
*.PININFO OUT:O IN:I N:I P:I VDD:B VSS:B
XM1 OUT P IN VDD pfet_06v0 L=0.70u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 OUT N IN VSS nfet_06v0 L=0.70u W=1.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_inv_1i.sym # of pins=4
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_1i.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_1i.sch
.subckt io_inv_1i IN OUT VDD VSS
*.PININFO OUT:O IN:I VDD:B VSS:B
XM1 OUT IN VDD VDD pfet_06v0 L=0.70u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 OUT IN VSS VSS nfet_06v0 L=0.70u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_inv_2i.sym # of pins=6
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_2i.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_2i.sch
.subckt io_inv_2i IN OUT VDD VSS DVDD DVSS
*.PININFO OUT:O IN:I VDD:B VSS:B DVDD:B DVSS:B
XM1 OUT IN VDD DVDD pfet_06v0 L=0.70u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 OUT IN VSS DVSS nfet_06v0 L=0.70u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_inv_3i.sym # of pins=4
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_3i.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_3i.sch
.subckt io_inv_3i IN OUT VDD VSS
*.PININFO OUT:O IN:I VDD:B VSS:B
XM2 OUT IN VDD VDD pfet_03v3 L=0.28u W=8.4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 OUT IN VSS VSS nfet_03v3 L=0.28u W=3.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_xfer_1.sym # of pins=6
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_xfer_1.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_xfer_1.sch
.subckt io_xfer_1 IN OUT P N VDD VSS
*.PININFO OUT:O IN:I N:I P:I VDD:B VSS:B
XM2 OUT N IN VSS nfet_03v3 L=0.28u W=0.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 OUT P IN VDD pfet_03v3 L=0.28u W=1.2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  io_inv_4.sym # of pins=4
** sym_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_4.sym
** sch_path: /home/tim/gitsrc/open_pdks/sources/gf180mcu_ocd_io/xschem/io_inv_4.sch
.subckt io_inv_4 IN OUT VDD VSS
*.PININFO OUT:O IN:I VDD:B VSS:B
XM1 OUT IN VDD VDD pfet_06v0 L=0.70u W=24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 OUT IN VSS VSS nfet_06v0 L=0.70u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.GLOBAL DVSS
.GLOBAL DVDD
.GLOBAL VDD
.GLOBAL VSS
